US07960436B2
a. Ethyl 6-nitro-1-oxo-2,3-dihydro-1H-inden-5-ylcarbamate
A mixture of 5-amino-6-nitro-2,3-dihydro-1H-inden-1-one (1.19 g, 6.2 mmol), of anhydrous ethanol (15 ml) and diethyl pyrocarbonate (1.2 g, 7.4 mmol) was stirred at room temperature for 3 hours. The solvent was removed in vacuo and the crude product was dried under reduced pressure and used for next step without further purification.

reactant | 5-amino-6-nitro-2,3-dihydro-1H-inden-1-one | 6.2 mmol, 1.19 g | NC=1C=C2CCC(C2=CC1[N+](=O)[O-])=O | C9H8N2O3
reactant | diethyl pyrocarbonate | 7.4 mmol, 1.2 g | C(OCC)(=O)OC(=O)OCC | C6H10O5
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 6-nitro-1-oxo-2,3-dihydro-1H-inden-5-ylcarbamate | [N+](=O)([O-])C1=C(C=C2CCC(C2=C1)=O)NC(OCC)=O | C12H12N2O5
